US05223505
A mixture of 4-(1-indolinyl)-6-methyl-2-methylaminopyrimidine (2.4 g, 0.01M), 30% w/w palladium on charcoal (0.24 g) and diphenyl ether (10 ml) was heated under reflux in an argon atmosphere for 1 hour. The catalyst was then removed by filtration. The filtrate was then diluted with a large volume of hexane (100 ml). This gave a pale yellow solid which was recrystallised from 2-propanol to give 4-(1-indolyl)-6-methyl-2-methylaminopyrimidine (1.47 g, 62%), m.p. 160°-162° C.; microanalysis, found: C,70.5; H,5.9; N,23.6%; C14H14N4 requires C,70.6; H,5.9; N,23.5%.

reactant | 4-(1-indolinyl)-6-methyl-2-methylaminopyrimidine | 0.01M, 2.4 g | N1(CCC2=CC=CC=C12)C1=NC(=NC(=C1)C)NC | C14H16N4
catalyst | palladium on charcoal | 0.24 g | [Pd] | Pd
solvent | diphenyl ether | 10 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4-(1-indolyl)-6-methyl-2-methylaminopyrimidine | 1.47 g, 62% | N1(C=CC2=CC=CC=C12)C1=NC(=NC(=C1)C)NC | C14H14N4
